US07214686B2
2-(4-Oxanyl)ethyl methanesulfonate
To a stirring solution of 2-(4-oxanyl)ethanol (9.63 g, 74.0 mmol) in dry dichloromethane (350 mL) was added distilled triethylamine (20.62 mL, 96.2 mmol) at 0° C., followed by drop-wise addition of methanesulfonyl chloride (7.44 mL, 96.2 mmol) over 15 min. The reaction was stirred for 16 h under N2 and slowly allowed to come to ambient temperature. The reaction was washed with saturated NaHCO3 (100 mL) and the aqueous phase was extracted with dichloromethane (1×50 mL). The combined organic extracts were dried (K2CO3), filtered and concentrated by rotary evaporation to yield 11.9 g of a colorless oil (77.0% yield).

reactant | 2-(4-oxanyl)ethanol | 74.0 mmol, 9.63 g | O1CCC(CC1)CCO | C7H14O2
reactant | triethylamine | 96.2 mmol, 20.62 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 96.2 mmol, 7.44 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 2-(4-Oxanyl)ethyl methanesulfonate | 11.9 g, 77.0% yield | CS(=O)(=O)OCCC1CCOCC1 | C8H16O4S
